* source AMPLIFICADOR_PUSH_PULL_AB
R_RC11         N14804 VCC+  2.4k TC=0,0 
R_RE12         N14828 N14808  82 TC=0,0 
R_RE11         N14828 N14812  82 TC=0,0 
R_RB11         VCC- N14828  8.2k TC=0,0 
R_RE21         N15285 VCC+  1.8k TC=0,0 
R_RE14         N15488 N19788  82 TC=0,0 
R_RE13         N15500 N19788  83 TC=0,0 
R_RC12         VCC- N15504  2.4k TC=0,0 
R_R4         0 N15315  47k TC=0,0 
R_RE22         VCC- N15771  1.8k TC=0,0 
R_R3         N16077 N15950  13k TC=0,0 
R_RE4         N16405 N16323  3.6k TC=0,0 
R_RE31         VO N16369  0.22 TC=0,0 
R_RE32         N16431 VO  0.22 TC=0,0 
Q_Q1         N15937 N14804 N15285 BC559B 
Q_Q2         N15504 N15315 N15488 BC559B 
Q_Q3         VCC- N16987 N15500 BC559B 
Q_Q4         VCC+ N16987 N14812 BC549B 
Q_Q5         N14804 N15315 N14808 BC549B 
Q_Q6         N16077 N15504 N15771 BC549B 
Q_Q7         N15937 N15950 N16077 BC549B 
Q_Q8         VCC+ N15937 N16323 QBC337-16/PLP 
Q_Q10         VCC+ N16323 N16369 TIP29
Q_Q11         VCC- N16405 N16431 TIP30
V_V1         VCC+ 0 18V
V_V2         0 VCC- 18V
C_C4         N15315 N15620  220n  TC=0,0 
C_C1         0 VCC+  100u  TC=0,0 
C_C2         0 VCC-  100u  TC=0,0 
R_R2         N16431 N16987  47k TC=0,0 
R_R1         N16871 N16987  2.2k TC=0,0 
C_C3         N16871 0  47u  TC=0,0 
R_RL         0 VO  8 TC=0,0 
V_V3         N15620 0  AC 1
+SIN 0 0.6 20k 0 0 0
R_RB12         N19788 VCC+  8.2k TC=0,0 
R_R5         N15937 N15950  30k TC=0,0 
Q_Q12         VCC- N16077 N16405 BC327_1 
C_C5         N16987 N16431  10p  TC=0,0 
